US07781478B2
A solution of 2-(4-aminophenyl)-1-ethyl-6-methoxy-1H-indole-3-carbonitrile (70 mg, 0.24 mmol), prepared as described in Example 1Ga, step B in THF (3 mL) is cooled to 0° C. and treated with triethylamine (0.04 mL, 0.31 mmol) and acetyl chloride (0.02 mL, 0.29 mmol) and stirred, warming to room temperature overnight. The reaction mixture is then diluted with H2O and extracted with ethyl acetate (3×). The organic phase is washed with H2O and saturated NaCl, dried and concentrated and purified by flash chromatography using EtOAc/hexanes (30-50%) to afford 57 mg (71%) of N-[4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-phenyl]acetamide as a tan solid.

reactant | 2-(4-aminophenyl)-1-ethyl-6-methoxy-1H-indole-3-carbonitrile | 0.24 mmol, 70 mg | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC)CC | C18H17N3O
reactant | triethylamine | 0.31 mmol, 0.04 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.29 mmol, 0.02 mL | C(C)(=O)Cl | C2H3ClO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | N-[4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-phenyl]acetamide | 57 mg, 71% | C(#N)C1=C(N(C2=CC(=CC=C12)OC)CC)C1=CC=C(C=C1)NC(C)=O | C20H19N3O2
